US04432986
The methyl 3-methoxy-2-naphthoate was diluted with excess 5 percent sodium hydroxide solution and the mixture was heated at its reflux temperature until the solution was clear. The solution was acidified with hydrochloric acid to provide a precipitate which was separated by filtration. Recrystallization from benzene provided the known intermediate 3-methoxy-2-naphthoic acid, m.p. 130°-132° C.

reactant | methyl 3-methoxy-2-naphthoate | COC=1C(=CC2=CC=CC=C2C1)C(=O)OC | C13H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
product | 3-methoxy-2-naphthoic acid | COC=1C(=CC2=CC=CC=C2C1)C(=O)O | C12H10O3
